US05929072
Ethyl 3,4-dihydro-2,2-dioxo-3-(1-methylethyl)-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-8-carboxylate (1.1 g)(prepared from ethyl 3,4-dihydro-2,2-dioxo-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-8-carboxylate and (prop-2-en-1-yl) bromide) was dissolved in dichloromethane (80 ml) and cooled to -75° C. Ozone was passed through the solution until the solution became blue. At which time, dimethyl sulfide (5 ml) was added and the solution allowed to come to room temperature over 1 hour. The solution was washed with water to remove the DMSO present, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to give a solid, ethyl 3,4-dihydro-2,2-dioxo-3-(1-methylethyl)-1-(2-oxoethyl)-1H-2,1,3-benzothiadiazine-8-carboxylate. This was dissolved in dichloroethane (50 ml) containing glacial acetic acid(5 drops) together with 4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydropyridine (0.8 g, 1.1 equiv.). Sodium triacetoxy borohydride (0.8 g, 1.1 equiv.) was added and the solution stirred overnight at room temperature. After washing with 2N sodium hydroxide (30 ml) and brine, the solution was dried, filtered and evacuated in vacuo to yield an off-white solid. Column chromatography eluting with ethyl acetate/hexane to ethyl acetate gave the required product, ethyl 3,4-dihydro-2,2-dioxo-1-{2-[4-(6-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-8-carboxylate, m.p. 95-97° C.

reactant | Ethyl 3,4-dihydro-2,2-dioxo-3-(1-methylethyl)-1-(prop-2-en-1-yl)-1H-2,1,3-benzothiadiazine-8-carboxylate | 1.1 g | O=S1(N(C2=C(CN1C(C)C)C=CC=C2C(=O)OCC)CC=C)=O | C16H22N2O4S
reactant | Ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 5 ml | CSC | C2H6S
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | ethyl 3,4-dihydro-2,2-dioxo-3-(1-methylethyl)-1-(2-oxoethyl)-1H-2,1,3-benzothiadiazine-8-carboxylate | O=S1(N(C2=C(CN1C(C)C)C=CC=C2C(=O)OCC)CC=O)=O | C15H20N2O5S
